US07018988B2
(3EZ,5S)-1-([1,1′-biphenyl]-4-ylcarbonyl)-5-(1-methyl-1H-benzimidazol-2-yl)-3-pyrrolidinone O-methyloxime
Following the general method as outlined in Example 11, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, [1,1′-biphenyl]-4-carbonyl chloride, and N1-methyl-1,2-benzenediamine, the title compound was obtained in 88% purity by HPLC. MS(ESI+): m/z=425.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | [1,1′-biphenyl]-4-carbonyl chloride | C1(=CC=C(C=C1)C(=O)Cl)C1=CC=CC=C1 | C13H9ClO
reactant | N1-methyl-1,2-benzenediamine | CNC=1C(=CC=CC1)N | C7H10N2
product | (3EZ,5S)-1-([1,1′-biphenyl]-4-ylcarbonyl)-5-(1-methyl-1H-benzimidazol-2-yl)-3-pyrrolidinone O-methyloxime | CON=C1CN([C@@H](C1)C1=NC2=C(N1C)C=CC=C2)C(=O)C2=CC=C(C=C2)C2=CC=CC=C2 | C26H24N4O2
